US07777038B2
Diethyl 2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethylene)malonate (16.62 g) and 10% palladium carbon (1.6 g) were added to 300 ml of ethanol, followed by catalytic hydrogenation at room temperature and atmospheric pressure for 6 hours. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1) to thereby obtain 13.59 g (yield: 81%) of diethyl 2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate as a light yellow oil.

reactant | Diethyl 2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethylene)malonate | 16.62 g | COC=1C=CC(=C2C=CC(N(C12)C)=O)C=C(C(=O)OCC)C(=O)OCC | C19H21NO6
catalyst | palladium carbon | 1.6 g | [C].[Pd]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | diethyl 2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate | 13.59 g, yield: 81% | COC=1C=CC(=C2C=CC(N(C12)C)=O)CC(C(=O)OCC)C(=O)OCC | C19H23NO6
